US06514964B1
Hunig's base (1.3 eq) and 3-aminopropan-1-ol (1.3 eq) were added to a solution of 2-bromo-5-fluoro-benzyl bromide (1 eq) in acetonitrile (0.6 M) and the resulting mixture stirred at RT under nitrogen for 12 h. Concentrated in vacuo to give 3-(((2-bromo-5-fluorophenyl)methyl)amino)propan-1-ol as a clear oil. EI-MS m/z 262, 264 (M+H)+

reactant | Hunig's base | 1.3 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-aminopropan-1-ol | 1.3 eq | NCCCO | C3H9NO
reactant | 2-bromo-5-fluoro-benzyl bromide | 1 eq | BrC1=C(CBr)C=C(C=C1)F | C7H5Br2F
solvent | acetonitrile | 0.6 M | C(C)#N | C2H3N
product | 3-(((2-bromo-5-fluorophenyl)methyl)amino)propan-1-ol | BrC1=C(C=C(C=C1)F)CNCCCO | C10H13BrFNO
